Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transfer for NSTEMI
 
Major Surgical or Invasive Procedure:
Cardiac cath on ___

 
History of Present Illness:
___ male with a past medical history of hypertension and
prostate cancer who presents emergency department as a transfer
with NSTEMI. Patient describes intermittent chest pressure in 
the
past 2 days. First episode happened while he was at rest and
lasted anywhere from ___ minutes. Symptoms not associated with
any diaphoresis, nausea or vomiting. Not associated with any
dyspnea. Pain went away on its own. Patient had his routine
exercise in the morning without a problem today. However later 
in
the day, while at rest, he once again had a chest pressure which
lasted about 10 minutes so he presented to outside hospital for
further evaluation. At outside hospital, his troponin was 0.1. 
He
was given aspirin 324 mg. He did not require any nitro as he has
been chest pain-free.

 In the ED initial vitals were:  98.4 155/70 18 97%RA

 EKG:  

 Labs/studies notable for:  normal chem panel, normal CBC, PTT
119.5, troponin 0.10, d-dimer 423, pending proBNP and fibrinogen

 Patient was given:  continued IV heparin gtt at 950U/hr

 Vitals on transfer:  149/95 79 18 99%RA

 On the floor...  he denies current chest pain/pressure. He 
notes
first episode of substernal chest pressure on ___, at rest,
lasting somewhere between ___ minutes. Denies associated
dyspnea, jaw discomfort, numbness/tingling, reflux. Second
episode was also at rest. He notes that he was shoveling snow on
___ without any difficulty or symptoms.
 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Hypertension 
 2. CARDIAC HISTORY  
 - CABG:  none
 - PCI:  none
 - PACING/ICD:  none
 3. OTHER PAST MEDICAL HISTORY  
prostate cancer s/p cyberknife
R inguinal hernia
bilateral Dupeytren's contractures
L ___ tendonitis
Trigger thumb
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

lung cancer and prostate cancer in father
breast cancer in mother
 
Physical ___:
ADMISSION EXAM:
VITALS:  97.2 166/86 74 20 97%RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM:
VS: T 98.0 BP 117/66 HR 72 RR 20 O2 sat 97 RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with no appreciable JVP
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:

___ 06:40PM BLOOD WBC-4.2 RBC-5.10 Hgb-15.6 Hct-47.1 MCV-92 
MCH-30.6 MCHC-33.1 RDW-13.1 RDWSD-44.4 Plt ___
___ 06:40PM BLOOD Neuts-56.1 ___ Monos-7.4 Eos-4.1 
Baso-1.2* Im ___ AbsNeut-2.35 AbsLymp-1.30 AbsMono-0.31 
AbsEos-0.17 AbsBaso-0.05
___ 06:40PM BLOOD ___ PTT-119.5* ___
___ 06:40PM BLOOD Plt ___
___ 06:40PM BLOOD Glucose-102* UreaN-13 Creat-0.9 Na-146 
K-4.3 Cl-105 HCO3-26 AnGap-15
___ 06:20AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2
___ 06:50PM BLOOD D-Dimer-423

OTHER LABS:

___ 06:40PM BLOOD proBNP-102
___ 06:40PM BLOOD CK-MB-9
___ 06:40PM BLOOD cTropnT-0.10*
___ 06:20AM BLOOD CK-MB-5 cTropnT-0.09*
___ 08:30PM URINE Color-Straw Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:30PM URINE
___ 08:30PM URINE Hours-RANDOM
___ 08:30PM URINE Uhold-HOLD

STUDIES:
Echo ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the distal septum. Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The ascending aorta is mildly dilated. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. There is borderline pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

 IMPRESSION: Low-normal left ventricular systolic function in 
the setting of hypokinesis of the distal septum. No clinically 
significant valvular regurgitation or stenosis. Borderline 
pulmonary hypertension.  

Cath ___:
Coronary Anatomy
Dominance: Left
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a hqazy 80% mid stenosis. There is a tubular 40% 
distal stenosis.
* Circumflex
The Circumflex is a large dominant vessel and is normal.
* Right Coronary Artery
The RCA is a small non-dominant vessel with mild luminal 
irregularities.

Impressions:
One vessel CAD with hazy high-grade stenosis in the mid LAD 
which was successfully treated using a
drug-eluting stent.

Recommendations
ASA 81mg QD indefinitely. Plavix 75mg QD for 12 months.
Further management including aggressive secondary prevention as 
per primary cardiology team.
 
Brief Hospital Course:
SUMMARY:
========
___ with PMHx of prostate cancer, HTN presenting with atypical 
chest pain, elevated troponins, found to have NSTEMI s/p PCI 
with DES to mid-LAD.

TRANSITIONAL ISSUES:
====================
- ___ consider downtitrating metoprolol in a year if not 
tolerating well.
- Transitioned from aspirin 325 to aspirin 81

#NSTEMI
Patient with 2 episodes of chest pressure at rest found to have 
elevated troponin. In generally good health (prior marathons) 
with no FH or significant risk factors. Troponins peaked to 0.10 
on admission. He was started on heparin gtt. TTE showing distal 
septal hypokinesis. He went to cardiac catheterization and was 
found to have 90% mid LAD disease and 40% distal LAD disease. He 
received DES to his mid LAD and optimized on medical management. 
On rosuvastatin 40mg, aspirin, metoprolol 25mg, and initiated on 
lisinopril post cath.

#Hypertension: home amlodipine was switched to lisinopril at 
time of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 325 mg PO Q6H:PRN Achilles pain 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*180 
Tablet Refills:*2 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*2 
4.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*90 
Tablet Refills:*3 
5.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: NSTEMI

SECONDARY DIAGNOSIS: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had chest 
pressure at home. You were found to have a small heart attack.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day.  
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack  
- Please do not stop taking either medication without taking to 
your heart doctor.  
- You are also on other new medications to help your heart, such 
as rosuvastatin, metoprolol, and lisinopril.
- Follow up with all of your regularly scheduled physician 
___.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Team  

 
Followup Instructions:
___